US05990105
0.165 g (0.0005 Mol) 4-(2-Pyrrolidin-1-yl-6-vinyl-pyridine-4-sulfonyl)-phenylamine were dissolved in ethyl ether (100 ml) and cooled to 0° C. A solution of diazomethane in ethyl ether (30 ml) was carefully added. Upon addition of a catalytic amount of Pd(OAc)2 gas evolution started. The reaction mixture was allowed to warm to ambient temperature and stirred for 30 min. After addition of a few drops of acetic acid the solvent was evaporated and the residue chromatographed on SiO2 with ethyl acetate hexane 1:2. It was obtained 0.149 g (87%) of 4-(2-cyclopropyl-6-pyrrolidin-1-yl-pyridine-4-sulfonyl)-phenylamine as bright yellow cristals; mp.: 216-218° C.

reactant | 4-(2-Pyrrolidin-1-yl-6-vinyl-pyridine-4-sulfonyl)-phenylamine | 0.0005 Mol, 0.165 g | N1(CCCC1)C1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)C=C | C17H19N3O2S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(2-cyclopropyl-6-pyrrolidin-1-yl-pyridine-4-sulfonyl)-phenylamine | 0.149 g, 87% | C1(CC1)C1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)N1CCCC1 | C18H21N3O2S
